.subckt TPS63000 VOUT L2 PGND L1 Vin EN  PS_SYNC VINA GND FB
X_U3_U23         BOOSTDRV FAULT PGND L2 VOUT drivefet3 PARAMS:  TH=0.5
+  RH=0.06  RL=0.06
X_U3_H1    VIN U3_N149923 U3_N148856 0 DRIVER_U3_H1
X_U3_S1    BUCKDRV 0 U3_N151235 ISEN DRIVER_U3_S1
C_U3_C5         ISEN 0  20p IC=0
X_U3_U22         BUCKDRV FAULT PGND L1 U3_N149923 drivefet3 PARAMS:
+  TH=0.5  RH=0.06  RL=0.06
E_U3_LIMIT1         U3_N151235 0 VALUE {LIMIT(V(U3_N148856),0,10)}
X_U5_U19          U5_N195986 U5_N195922 INVERTER
R_U5_R6         U5_N220034 U5_N205823  9.6k
X_U5_U18          U5_N162431 U5_N150768 INVERTER
X_U5_U25          FB U5_N60474691 COMPARATOR2 PARAMS:  TH=0.5
X_U5_U5          VIN U5_N6052993 COMP_HYS2 PARAMS:  TH=1.8 HYS=0.19  T=20
R_U5_R2         U5_N163481 SKIP  100
R_U5_R7         U5_N60474691 U5_N220034  1
C_U5_C3         0 V2  10n
E_U5_ABM5         U5_N6053792 0 VALUE { IF(V(U5_N6052993) > 0.5 &
+ +V(U5_N6053135) > 0.5 ,1,0)   }
C_U5_C5         0 U5_N205823  1n
X_U5_U13          FB U5_N195980 COMPARATOR2 PARAMS:  TH=0.485
C_U5_C4         0 V4  10n
X_U5_U12          U5_N148232 U5_N157694 INVERTER
X_U5_U14         U5_N203323 U5_N195922 U5_N162431 RSFF_RDOM_VAR PARAMS:  T=10
X_U5_U10          PS U5_N150768 U5_N163481 OR
C_U5_C1         0 SKIP  1n
X_U5_U2          VINA U5_N6053135 COMP_HYS2 PARAMS:  TH=1.8 HYS=0.2  T=20
V_U5_V1         VREF 0 0.5
X_U5_U7          IAVG U5_N195986 COMPARATOR2 PARAMS:  TH=0.18
X_U5_U16          U5_N195980 U5_N203323 INVERTER
R_U5_R4         U5_N192132 V4  1
X_U5_U4          U5_N6053938 U5_N148232 FAULT NAND
E_U5_E1         ILIMIT 0 TABLE { V(VOUT, 0) }
+ (-10,0.74,  0,0.74,   1.2,1.58, 10, 1.58)
E_U5_ABM2         V3 0 VALUE { (V(VOUT)+V(VIN))/2
+     }
X_U5_S1    U5_N220034 0 U5_N205823 0 HK_U5_S1
X_U5_U15          PS U5_N211254 PSOFF OR
X_U5_U11         U5_N154264 U5_N148232 delay PARAMS:  T=140e3
C_U5_C7         0 U5_N6053938  1n
R_U5_R3         U5_N179047 V2  1
E_U5_ABM4         U5_N192132 0 VALUE { V(VIN)*0.025    }
X_U5_U28          U5_N205823 U5_N211254 INVERTER
X_U5_D1          0 VOUT DC_1mV_1A_1V_1nA
G_U5_G1         VOUT 0 U5_N157694 0 0.008
E_U5_ABM3         U5_N179047 0 VALUE { V(V3)*0.8    }
X_U5_U3          EN U5_N154264 COMP_HYS2 PARAMS:  TH=0.8 HYS=0.8  T=20
C_U5_C6         0 U5_N220034  1n
R_U5_R8         U5_N6053792 U5_N6053938  1
X_U1111_S2    U1111_RAMPDIS U1111_N126109 OSCILLATOR_U1111_S2
C_U1111_C6         0 U1111_N6057032  100n
X_U1111_U10          U1111_N138794 U1111_N139892 COMPARATOR2 PARAMS:  TH=1
R_U1111_R2         U1111_N6052575 U1111_N6052677  1
X_U1111_U12          U1111_N139892 U1111_N123767 CLK OR
E_U1111_ABM1         U1111_N6052575 0 VALUE { IF(V(U1111_N6050413) > 0.5 &
+ +V(U1111_N6050320) > 0.5,1,0)    }
X_U1111_U2          PS_SYNC U1111_N6050320 COMP_HYS2 PARAMS:  TH=0.8 HYS=0.8
+  T=20
E_U1111_E2         BOOSTRAMP U1111_N128582 V3 0 1
X_U1111_U9          FAULT U1111_N140768 U1111_N140687 OR
C_U1111_C2         0 U1111_N126109  1n IC=0
X_U1111_U14          U1111_N6050320 U1111_N16567365 PS OR
R_U1111_R3         0 U1111_N6057032  10k
C_U1111_C3         0 U1111_N138794  1n IC=0
C_U1111_C5         0 U1111_N6052677  1n
X_U1111_U7          U1111_N124395 BUCKRAMP ANALOG_BUFFER PARAMS:  GAIN=1
R_U1111_R4         U1111_N165676591 U1111_N16567365  1
I_U1111_I1         0 U1111_N138794 DC 1.334m
X_U1111_U6          FAULT CLK U1111_RAMPDIS OR
C_U1111_C7         0 U1111_N16567365  1n
E_U1111_ABM2         U1111_N165676591 0 VALUE { IF(V(U1111_N6057032) > 1,1,0)
+   }
X_U1111_U13          U1111_N6049630 U1111_N6050413 INVERTER
X_U1111_S3    U1111_N140687 U1111_N138794 OSCILLATOR_U1111_S3
X_U1111_S1    U1111_RAMPDIS U1111_N124395 OSCILLATOR_U1111_S1
G_U1111_G3         U1111_N6057032 0 U1111_N6050320 0 -1
X_U1111_U17         U1111_N6050320 U1111_N6049630 delay PARAMS:  T=50
D_U1111_D3         U1111_N6057032 U1111_N16569573 D_D1
C_U1111_C1         0 U1111_N124395  1n IC=0
X_U1111_U11          U1111_N139892 U1111_N6052677 U1111_N139837 OR
X_U1111_U4         U1111_N139837 U1111_N123767 one_shot PARAMS:  T=20
G_U1111_G1         0 U1111_N124395 VIN 0 0.667m
C_U1111_C4         0 U1111_N140768  1n IC=0
R_U1111_R1         U1111_N140768 CLK  1
V_U1111_V1         U1111_N16569573 0 1.2
G_U1111_G2         0 U1111_N126109 VOUT 0 0.667m
X_U1111_U8          U1111_N126109 U1111_N128582 ANALOG_BUFFER PARAMS:  GAIN=-1
G_U4_ABM3I1         0 U4_VVA VALUE { V(VOUT)*8e-6*(V(VREF)-V(U4_FB2))    }
bG_U4_G6         V4 VCA i=TABLE(V(V4,VCA) ,  (-10,-1p),(0,0),(1u,1u),(2u,100u),(3u,10m) ) cpar=10f
V_U4_V2         U4_VVA_SKIP IAVG 0.5
R_U4_RZI         U4_N138646 VCA  250K
V_U4_V1         U4_N137240 0 0.5
R_U4_R2         U4_N137240 U4_N137295  0.06
R_U4_R3         0 VCA  1e12
R_U4_R4         VCA U4_N16499670  10K
E_U4_ABM1         U4_N165122571 0 VALUE { IF(V(SKIP) < 0.5,0.74, V(U4_VVA))
+  }
V_U4_V3         U4_N16498242 0 500m
R_U4_R1         0 U4_VVA  1e12
C_U4_C4         0 VCA  10f
C_U4_C5         0 U4_VVA_SKIP  1n
R_U4_R6         U4_N165122571 U4_VVA_SKIP  1
G_U4_G3         U4_N16498242 U4_VVA TABLE { V(U4_N16498242, U4_VVA) }
+ ( (-10,-1p)(0,0)(1u,1u)(2u,100u)(3u,10m) )
G_U4_G4         U4_N16498304 ILIMIT TABLE { V(U4_N16498304, ILIMIT) }
+ ( (-10,-1p)(0,0)(1u,1u)(2u,100u)(3u,10m) )
C_U4_CCV         U4_N134364 0  100p IC=0.51
C_U4_CCI         0 U4_N138646  20p IC=0
C_U4_C3         0 U4_VVA  10f
R_U4_RZV         U4_N134364 U4_VVA  500k
G_U4_G7         U4_N16499670 V2 TABLE { V(U4_N16499670, V2) }
+ ( (-10,-1p)(0,0)(1u,1u)(2u,100u)(3u,10m) )
X_U4_U9          FB U4_FB2 ANALOG_BUFFER PARAMS:  GAIN=1
G_U4_G5         0 VCA U4_VVA_SKIP U4_N137295 16u
R_U4_R5         U4_VVA U4_N16498304  10K
G_U4_G8         0 U4_N137295 ISEN 0 10
X_U1_U31          U1_N170632 FAULT U1_N170828 OR
X_U1_U16          VCA BOOSTRAMP U1_N170866 COMPARATOR
X_U1_U30          U1_N170866 U1_N170828 U1_N170946 OR
X_U1_U17         U1_N170812 CLK BUCKDRV RSFF_RDOM_VAR1 PARAMS:  T=20
X_U1_U28          PSOFF U1_N170632 INVERTER
X_U1_U23         U1_N170946 CLK BOOSTDRV RSFF_RDOM_VAR1 PARAMS:  T=20
X_U1_U15          BUCKRAMP VCA U1_N171122 COMPARATOR
X_U1_U32          U1_N171122 U1_N170828 U1_N170812 OR
.IC         V(U1111_N6057032 )=0

*$
.subckt DRIVER_U3_H1 1 2 3 4
H_U3_H1         3 4 VH_U3_H1 1
VH_U3_H1         1 2 0V
.ends DRIVER_U3_H1
*$
.subckt DRIVER_U3_S1 1 2 3 4
S_U3_S1         3 4 1 2 _U3_S1
RS_U3_S1         1 2 1G
.MODEL         _U3_S1 VSWITCH Roff=100k Ron=50 Voff=0.25V Von=0.75V
.ends DRIVER_U3_S1
*$
.subckt HK_U5_S1 1 2 3 4
S_U5_S1         3 4 1 2 _U5_S1
RS_U5_S1         1 2 1G
.MODEL         _U5_S1 VSWITCH Roff=1 Ron=1e6 Voff=0.25V Von=0.75V
.ends HK_U5_S1
*$
.subckt OSCILLATOR_U1111_S2 1 3
S_U1111_S2         3 0 1 0 _U1111_S2
RS_U1111_S2         1 0 1G
.MODEL         _U1111_S2 VSWITCH Roff=1e9 Ron=1m Voff=0.25V Von=0.75V
.ends OSCILLATOR_U1111_S2
*$
.subckt OSCILLATOR_U1111_S3 1 3
S_U1111_S3         3 0 1 0 _U1111_S3
RS_U1111_S3         1 0 1G
.MODEL         _U1111_S3 VSWITCH Roff=1e9 Ron=1m Voff=0.25V Von=0.75V
.ends OSCILLATOR_U1111_S3
*$
.subckt OSCILLATOR_U1111_S1 1 3
S_U1111_S1         3 0 1 0 _U1111_S1
RS_U1111_S1         1 0 1G
.MODEL         _U1111_S1 VSWITCH Roff=1e9 Ron=1m Voff=0.25V Von=0.75V
.ends OSCILLATOR_U1111_S1
*$
.SUBCKT RSFF_RDOM_VAR R S Q PARAMs:  T=10
EABM1  1 0 VALUE { If( V(S)>0.5 | V(Q)>0.5, 1,0)    }
EABM2  Q  0 VALUE { If( V(2)>0.5 & V(R)<0.5, 1,0)    }
R1   1 2 1
C1   2  0 {T*1e-9}
.ENDS RSFF_RDOM_VAR
*$
.SUBCKT RSFF_RDOM_VAR1 R S Q PARAMs:  T=10
EABM1  1 0 VALUE { If( V(S)>0.5 | V(Q)>0.5, 1,0)    }
EABM2  Q  0 VALUE { If( V(2)>0.5 & V(3)<0.5, 1,0)    }
R1   1 2 1
C1   2  0 {T*1e-9}
R2   R 3 1
C2   3  0 {T*1e-9}
.ENDS RSFF_RDOM_VAR1
*$



.SUBCKT OR A B OUT  
EOUT OUT 0 VALUE { IF( V(A)>0.5 | V(B)>0.5,1,0) }
.ends OR
*$
.SUBCKT OR3 A B C OUT  
EOUT OUT 0 VALUE { IF( V(A)>0.5 | V(B)>0.5 | V(C)>0.5,1,0) }
.ends OR3
*$
.SUBCKT AND_1 A B OUT  
EOUT OUT 0 VALUE { IF( V(A)>0.5 & V(B)<0.5,1,0) }
.ends AND_1
*$
.SUBCKT INVERTER IN OUT  
EOUT OUT 0 VALUE { IF( V(IN)<0.5,1,0) }
.ends INVERTER
*$
.SUBCKT NAND A B OUT  
EOUT OUT 0 VALUE { IF( V(A)>0.5 & V(B)>0.5,0,1) }
.ends NAND

.SUBCKT COMPARATOR INP INM OUT
EOUT OUT 0 VALUE { IF( V(INP)>V(INM),1,0) }
.ends COMPARATOR
*$
.SUBCKT COMPARATOR2 INP OUT
+ PARAMs:  TH=1
EOUT OUT 0 VALUE { IF( V(INP)>TH,1,0) }
.ends COMPARATOR2
*$
.SUBCKT COMP_HYS2 INP OUT
+ PARAMs:  TH=1 HYS=0.1 T=10
EIN INP1 0 INP 0 1
EHYS INP1 INP2 VALUE { IF( V(1)>0.5,-(HYS)/2,HYS/2) }
EOUT OUT 0 VALUE { IF( V(INP2)>TH,1,0) }
R1 OUT 1 1
C1 1 0 {T*1e-9}
RINP1 INP1 0 1K
.ends COMP_HYS2
*$
.SUBCKT ANALOG_BUFFER IN OUT
+ PARAMs:  GAIN=1
EOUT OUT 0 VALUE { GAIN * V(IN)}
.ends ANALOG_BUFFER
*$
.SUBCKT ANALOG_MUX A B SEL OUT
EOUT OUT 0 VALUE { IF( V(SEL)>0.5,V(B),V(A)) }
.ends ANALOG_MUX
*$
.SUBCKT DRIVEFET3 IN FAULT RTN SW VIN
+ PARAMS:  TH=2.5 RH=0.001 RL=0.001
D2         RTN SW FETBD
D1         SW VIN FETBD
EABM1         DRU 0 VALUE { if( (V(IN)>TH) & (V(FAULT)<TH),1,0)    }
EABM2         DRL 0 VALUE { if( (V(IN)<TH) & (V(FAULT)<TH),1,0)    }
S1    VIN SW DRU 0 SH
S2    SW RTN DRL 0  SL
*.MODEL         SH VSWITCH Roff=1e6 Ron={RH} Voff=0.25V Von=0.75V
*.MODEL         SL VSWITCH Roff=1e6 Ron={RL} Voff=0.25V Von=0.75V
.MODEL         SH sw Roff=1e6 Ron={RH}  VT=0.5 Vh=-0.25  Lser=5n 
.MODEL         SL sw  Roff=1e6 Ron={RL} VT=0.5 Vh=-0.25 Lser=5n 
.model FETBD  D(Is=100p Rs=1m Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=0f
+               M=1 Vj=.75 Fc=.5 Isr=40n Nr=2 Tt=0n)
.ends DRIVEFET3
*$
.subckt DC_1mV_1A_1V_1nA A C
BG1 A C i=TABLE(V(A, C),  -1,-1n, (0,0),(1m,1), (2m,10), (3m,1000) ) ;Cpar=1f
.ends DC_1mV_1A_1V_1nA
*$
.SUBCKT ONE_SHOT IN OUT
+ PARAMs:  T=100
S_S1         MEAS 0 RESET2 0 S1
E_ABM1         CH 0 VALUE { if( V(IN)>0.5 | V(OUT)>0.5,1,0)    }
R_R2         RESET2 RESET  0.1
E_ABM3         OUT 0 VALUE { if( V(MEAS)<0.5 & V(CH)>0.5,1,0)    }
R_R1         MEAS CH  {T}
C_C2         0 RESET2  1.4427n
C_C1         0 MEAS  1.4427n
E_ABM2         RESET 0 VALUE { if(V(CH)<0.5,1,0)    }
.MODEL         S1 VSWITCH Roff=1e9 Ron=1.0 Voff=0.25V Von=0.75V
.ENDS ONE_SHOT
*$
.SUBCKT DELAY IN OUT
+ PARAMs:  T=100
S_S1         MEAS 0 RESET2 0 S1
E_ABM1         CH 0 VALUE { if( V(IN)>0.5,1,0)    }
E_ABM3         OUT 0 VALUE { if( V(MEAS)>0.5 & V(CH)>0.5,1,0)    }
R_R1         MEAS CH  {T}
C_C1         0 MEAS  1.4427n IC=-1
E_ABM2         RESET 0 VALUE { if(V(CH)<0.5,1,0)    }
R_R2         RESET2 RESET  0.1
C_C2         0 RESET2  1.4427n IC=0
.MODEL         S1 VSWITCH Roff=1e9 Ron=1.0 Voff=0.25V Von=0.75V
.ENDS DELAY
*$
.SUBCKT OSC_1 FAULT RAMP CLK PARAMS:  FREQ=100E3 TCLK=1E-6
GDIS         RAMP 0 CLK 0 {IGAIN}
ECLK         CLK 0 VALUE { if(V(2)>0.5,1,0)    }
EHYSC         1 0 VALUE { if(V(CLK)>0.5,-0.5,0.5)    }
S1         RAMP 0 FAULT 0 S1M
EHYS         RAMP 2 1 0 1
ICH         0 RAMP DC {ICHARGE}
COSC         0 RAMP  1n IC=0
.PARAM  ICHARGE={1E-9/TON} IGAIN={(1E-9/TCLK)+ICHARGE} TON=
+ {(1/FREQ)-TCLK}
.MODEL         S1M VSWITCH Roff=1G Ron=1m Voff=0.25 Von=0.75
.ENDS OSC_1
*$
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )

.ENDS TPS63000
*$
